US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl methylaminoacetate dihydrochloride (“A108”)
3.3 ml of 4N HCl in dioxane are added to 1 g of 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl (tert-butoxycarbonylmethylamino)acetate in 20 ml of dichloromethane with ice-cooling. The mixture is subsequently stirred at 25° C. for a further 1 h, the precipitate is filtered off and rinsed with 3 ml of dichloromethane.

reactant | HCl | 4N, 3.3 ml | Cl | ClH
reactant | 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl (tert-butoxycarbonylmethylamino)acetate | 1 g | C(C)(C)(C)OC(=O)CNCC(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | C32H31F2N5O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl methylaminoacetate dihydrochloride | Cl.Cl.CNCC(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | InChI=1S/C27H23F2N5O3.2ClH/c1-31-11-24(35)37-14-18-9-21(28)22(29)10-19(18)15-6-7-23-20(8-15)25(33-27(30)32-23)26(36)34-12-16-4-2-3-5-17(16)13-34;;/h2-10,31H,11-14H2,1H3,(H2,30,32,33);2*1H
